US08217065B2
4-{5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-benzonitrile
Combine 4-cyano-benzoic acid (120 mg, 0.817 mmol), 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (250 mg, 0.778 mmol), HATU (445 mg, 1.17 mmol), EDIPA (204 uL, 1.17 mmol), and DMF (5 mL) and stir for 25 hr. Dilute the reaction with EtOAc (75 mL) and extract with water (15 mL). Dry the organic phase over Na2SO4 and concentrate under reduced pressure. Take the concentrate up in DMF (3 mL) and add Burgess reagent (555 mg, 2.33 mmol). Heat the reaction to 150° C. for 20 min by microwave irradiation. Dilute the reaction with EtOAc (75 mL) and extract with water (20 mL). Dry the organic phase over Na2SO4 and concentrate under reduced pressure. Purify the concentrate by silica gel chromatography (10-40% ACN/DCM) to afford a white solid. Suspend the solid in water and stir for 6 hr. Collect the solid by filtration and wash with Et2O. Dry the solid under vacuum at 40° C. for 2 days to afford the title compound (138 mg) as a white solid: 1H NMR (400 MHz, DMSO-d6) ppm 7.63-7.68 (m, 1 H) 7.70-7.74 (m, 2 H) 7.79-7.85 (tautomer, m, 1 H) 7.96 (tautomer, d, J=8.59 Hz, 1 H) 8.06-8.15 (m, 3 H) 8.35-8.40 (m+tautomer, 2 H) 8.52-8.60 (m, 1 H) 13.39 (d, J=12.76 Hz, 1H); LCMS tR=1.35 min, MS (m/z) 432.0.

reactant | 4-cyano-benzoic acid | 0.817 mmol, 120 mg | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.778 mmol, 250 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | HATU | 1.17 mmol, 445 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | EDIPA | 1.17 mmol, 204 uL | CCOP(N(C(C)C)C(C)C)O | C8H20NO2P
reactant | Burgess reagent | 2.33 mmol, 555 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | water | O | H2O
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-{5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-benzonitrile | 138 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C2=NN=C(O2)C2=CC=C(C#N)C=C2 | C22H11Cl2N5O
